US09353084B2
Tris(triphenylphosphine)rhodium(I) chloride (1.50 g, 1.62 mmol) was placed in a dry round bottom flask. The flask was evacuated and filled with argon (×3). (R)—N-(1-(2-Fluorophenyl)ethylidene)-2-methylpropane-2-sulfinamide (15.6 g, 64.6 mmol) was dissolved in tetrahydrofuran (265 ml) (dried over 4 Å MS) and added to the reaction flask followed by ethyl bromodifluoroacetate (26.2 g, 16.6 ml, 129 mmol). The dark red/orange reaction mixture was cooled to 0° C. using an ice/water bath. Diethyl zinc (126 ml, 126 mmol, 1 M in hexane) was added in a dropwise manner. Upon complete addition the reaction was stirred at 0° C. for an additional 1 h, the cooling was removed and the reaction was stirred at room temperature overnight. The reaction was diluted with ethyl acetate (250 mL) and quenched with saturated aqueous NaHCO3 (100 mL). The resulting suspension was filtered through a plug of celite, the phases were separated, and the organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified using a CombiFlash system (330 g SiO2, gradient elution; heptanes:ethyl acetate 100:0→60:40) to afford (R)-ethyl 3-((R)-1,1-dimethylethylsulfinamido)-2,2-difluoro-3-(2-fluorophenyl)butanoate (14.1 g, 59.7% yield). The stereochemistry was assigned based on literature precedence (WO2012110459) 1H NMR (600 MHz, CDCl3) δ 7.46 (t, J=8.0 Hz, 1H), 7.41-7.35 (m, 1H), 7.19-7.14 (m, 1H), 7.07 (dd, J=13.0, 8.2 Hz, 1H), 4.65 (d, J=2.6 Hz, 1H), 4.25 (q, J=7.2 Hz, 2H), 2.07 (s, 3H), 1.30-1.21 (m, 12H).

reactant | (R)—N-(1-(2-Fluorophenyl)ethylidene)-2-methylpropane-2-sulfinamide | 64.6 mmol, 15.6 g | FC1=C(C=CC=C1)C(C)=N[S@](=O)C(C)(C)C | C12H16FNOS
reactant | ethyl bromodifluoroacetate | 129 mmol, 16.6 ml, 26.2 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | Diethyl zinc | 126 mmol, 1 M, 126 ml | C(C)[Zn]CC
solvent | tetrahydrofuran | 265 ml | O1CCCC1 | C4H8O
catalyst | Tris(triphenylphosphine)rhodium(I) chloride | 1.62 mmol, 1.50 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | (R)-ethyl 3-((R)-1,1-dimethylethylsulfinamido)-2,2-difluoro-3-(2-fluorophenyl)butanoate | 14.1 g, 59.7% yield | CC(C)([S@@](=O)N[C@](C(C(=O)OCC)(F)F)(C)C1=C(C=CC=C1)F)C | C16H22F3NO3S
